US04604479
Synthesis of 1,7-Bis(γ-methacryloxypropyl)-1,1,7,7-TETRA (Pentamethyldisiloxanyl)-3,3,5,5-TETRA (Trimethylsiloxy)Tetrasiloxane
This monomer was prepared in a manner similar to that described in Example 1. The reactants were γ-methacryloxypropyltrimethoxysilane (2 moles), 1,3-Bis(acetoxy)-1,1,3,3-TETRA(trimethylsiloxy)disiloxane (1 mole) and acetoxypentamethyldisiloxane (4 moles). This material is designated SM-16.

reactant | γ-methacryloxypropyltrimethoxysilane | 2 moles | C(C(=C)C)(=O)OCCC[Si](OC)(OC)OC | C10H20O5Si
reactant | 1,3-Bis(acetoxy)-1,1,3,3-TETRA(trimethylsiloxy)disiloxane | 1 mole | C(C)(=O)O[Si](O[Si](O[Si](C)(C)C)(O[Si](C)(C)C)OC(C)=O)(O[Si](C)(C)C)O[Si](C)(C)C | C16H42O9Si6
reactant | acetoxypentamethyldisiloxane | 4 moles | C(C)(=O)O[Si](O[Si](C)(C)C)(C)C | C7H18O3Si2
product | 1,7-Bis(γ-methacryloxypropyl)-1,1,7,7-TETRA (Pentamethyldisiloxanyl)-3,3,5,5-TETRA (Trimethylsiloxy)Tetrasiloxane | C(C(=C)C)(=O)OCCC[Si](O[Si](O[Si](O[Si]([Si](O[Si](C)(C)C)(C)C)([Si](O[Si](C)(C)C)(C)C)CCCOC(C(=C)C)=O)(O[Si](C)(C)C)O[Si](C)(C)C)(O[Si](C)(C)C)O[Si](C)(C)C)([Si](O[Si](C)(C)C)(C)C)[Si](O[Si](C)(C)C)(C)C | C46H118O15Si16
